US05011931
A solution of 3-chloroperoxybenzoic acid (8.29 g) in dichloromethane (200 ml) was added to a solution of 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone (10.0 g), prepared in a similar manner to that described in Example 1, in dichloromethane (175 ml) over a period of 7 minutes whilst maintaining the temperature below 30°. The mixture was stirred at ambient temperature for 2 hours, saturated aqueous sodium hydrogen carbonate solution (244 ml) was added and the mixture stirred at ambient temperature for a further 2 hours. The dichloromethane layer was isolated and the aqueous layer extracted with dichloromethane (2×60 ml). The organic phases were combined, dried (magnesium sulphate) and evaporated in vacuo to give a solid which was crystallised from acetone to give 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphonylethanone, m.p. 143.5°-145°.

reactant | 3-chloroperoxybenzoic acid | 8.29 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphinylethanone | 10.0 g | FC1=CC(=C(C=C1)C(CS(=O)C)=O)NC | C10H12FNO2S
reactant | sodium hydrogen carbonate | 244 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 175 ml | ClCCl | CH2Cl2
product | 1-(4-fluoro-2-methylaminophenyl)-2-methylsulphonylethanone | FC1=CC(=C(C=C1)C(CS(=O)(=O)C)=O)NC | C10H12FNO3S
